US08293768B2
To a stirred solution of 4-aminobenzyl alcohol (1.50 g, 12.18 mmol) in 1,4-dioxane (30 mL) was added sodium hydroxide (0.49 g, 12.2 mmol) in water (30 mL). The mixture was cooled to 0° C., and di-tert-butyl dicarbonate (2.93 g, 13.4 mmol) was added in portions. The resulting reaction mixture was stirred at ambient temperature for 1.5 h, and diluted with ethyl acetate (75 mL). The organic layer was washed with 10% aqueous hydrochloric acid (2×35 mL) and water, dried over sodium sulfate, filtered and concentrated in vacuo to afford tert-butyl 4-(hydroxymethyl)phenylcarbamate as a viscous yellowish liquid in 87% yield (2.36 g): 1H NMR (300 MHz, CDCl3) δ 7.37-7.26 (m, 4H), 6.52 (br s, 1H), 4.63 (s, 2H), 1.52 (s, 9H); MS (ES+) m/z 246.3 (M+23).

reactant | 4-aminobenzyl alcohol | 12.18 mmol, 1.50 g | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | sodium hydroxide | 12.2 mmol, 0.49 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 13.4 mmol, 2.93 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(hydroxymethyl)phenylcarbamate | 87% yield | OCC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C12H17NO3
